US07601844B2
N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-1-oxopentan-2-yl)benzamide
A reaction tube was charged with HOBt (13 mg), benzoic acid (9 mg) and EDC (18 mg) in DMF (0.75 mL) and then agitated at rt. for 15 min. A solution of 2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)pentan-1-one hydrochloride (20 mg) in DIEA (65 μL) and DMF (185 μL) was added to the reaction tube, and the resulting mixture was shaken overnight at rt. After this time, the resulting solution was diluted with MeOH and purified by preparative LC-MS to provide Example 180. MS found: (M+H)+=400.

reactant | HOBt | 13 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | benzoic acid | 9 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | EDC | 18 mg
reactant | 2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)pentan-1-one hydrochloride | 20 mg | Cl.NC(C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)CCC
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
solvent | DIEA | 65 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 185 μL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | N-(1-(4-(4-chlorophenyl)piperidin-1-yl)-1-oxopentan-2-yl)benzamide | ClC1=CC=C(C=C1)C1CCN(CC1)C(C(CCC)NC(C1=CC=CC=C1)=O)=O | C23H27ClN2O2
